US07547779B2
Step 2. Methyl 3-[(4-amino-5-nitro-2-pyridinyl)oxy]benzoate
Under nitrogen, to a solution of 2-bromo-5-nitro-4-pyridineamine (3.67 g, 16.8 mmol) and methyl 3-hydroxybenzoate (2.82 g, 18.5 mmol) in DMF (100 mL), was added NaH (810 mg, 60% suspension, 20.2 mmol). 5 min later, the reaction mixture was heated to 65° C. The reaction mixture was concentrated, taken up in EtOAC, washed with NaOH solution (1.0N), saturated NH4Cl solution and brine, dried over Na2SO4, filtered and concentrated to afford the title compound, which was used directly to next step without further purification. MS (ES+) m/e 290 [+H]+.

reactant | 2-bromo-5-nitro-4-pyridineamine | 16.8 mmol, 3.67 g | BrC1=NC=C(C(=C1)N)[N+](=O)[O-] | C5H4BrN3O2
reactant | methyl 3-hydroxybenzoate | 18.5 mmol, 2.82 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | NaH | 20.2 mmol, 810 mg | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[(4-amino-5-nitro-2-pyridinyl)oxy]benzoate | NC1=CC(=NC=C1[N+](=O)[O-])OC=1C=C(C(=O)OC)C=CC1 | C13H11N3O5
